US05378701
(1-Bromo-8-methyl-5H-dibenzo[a,d]cyclohepten-5-yl)acetonitrile (Compound 5-a)
The same procedure as in Step A of Example 2 was repeated using 0.86 g of 1-bromo-8-methyl-5-oxo-5H-dibenzo[a,d]cycloheptene and 1.4 ml of diethyl (cyanomethyl)phosphonate to give 0.64 g (69%) of the product as an oily substance.

reactant | 1-bromo-8-methyl-5-oxo-5H-dibenzo[a,d]cycloheptene | 0.86 g | BrC1=CC=CC=2C(C3=C(C=CC21)C=C(C=C3)C)=O | C16H11BrO
reactant | diethyl (cyanomethyl)phosphonate | 1.4 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
product | (1-Bromo-8-methyl-5H-dibenzo[a,d]cyclohepten-5-yl)acetonitrile | 0.64 g, 69% | BrC1=CC=CC=2C(C3=C(C=CC21)C=C(C=C3)C)CC#N | C18H14BrN
